US07884094B2
To 1-(5-ethyl-2,4-dihydroxy-phenyl)-2-naphthalen-2-yl-ethanone (c, 0.50 g) was added a mixture of pyridine (2 mL), trimethyl orthoformate (2 mL) and piperidine (2 drops), and the mixture was heated at 120° C. for 12 h. The mixture was cooled to room temperature, diluted with EtOAc (100 mL) then washed with 1 N HCl (100 mL). The organic layer was washed with water and dried. The oil obtained on concentration of the organic layer was crystallized in EtOAc/hexanes to give 6-ethyl-7-hydroxy-3-naphthalen-2-yl-chromen-4-one (d, 0.36 g).

reactant | 1-(5-ethyl-2,4-dihydroxy-phenyl)-2-naphthalen-2-yl-ethanone | 0.50 g | C(C)C=1C(=CC(=C(C1)C(CC1=CC2=CC=CC=C2C=C1)=O)O)O | C20H18O3
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | trimethyl orthoformate | 2 mL | C(OC)(OC)OC | C4H10O3
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 6-ethyl-7-hydroxy-3-naphthalen-2-yl-chromen-4-one | 0.36 g | C(C)C=1C=C2C(C(=COC2=CC1O)C1=CC2=CC=CC=C2C=C1)=O | C21H16O3
